* D:\UTN D\04 - Teoria de Circuitos 2\TC2_JuanRonchetti_2023\Parcial_1\Circuito_2d.asc
R2 N001 0 0.707
R1 N003 N001 1
R3 N004 Vo 1
R4 Vo Vx 1
R5 N004 N002 1
C1 N001 N002 1 Rser=0
C2 Vx N003 1 Rser=0
XU1 Vx N004 N003 opamp Aol=100K GBW=10Meg
XU2 Vx N001 Vo opamp Aol=100K GBW=10Meg
V1 N002 0 AC 1 0 Rser=0
.lib opamp.sub
.ac dec 1000 0.01 10
.backanno
.end
