* D:\UTN D\04 - Teoria de Circuitos 2\TC2_JuanRonchetti_2023\TPLAB_2\Sallen-Key.asc
XU1 Vo N002 Vo opamp Aol=100K GBW=10Meg
R2 N002 N001 7480
R1 N001 Vi 7480
C2 N002 0 1.32n
C1 Vo N001 1.32n
V1 Vi 0 AC 1 0
.lib opamp.sub
.ac dec 1000 1 40k
.backanno
.end
