* D:\UTN D\04 - Teoria de Circuitos 2\TC2_JuanRonchetti_2023\TS_6\CircuitSha.asc
R1 N003 0 1.0588
R2 N006 N003 1
R3 N002 Vo 1
R4 Vo N004 1
R5 N002 N001 9
C1 N003 N001 0.1111 Rser=0
C2 N004 N006 1 Rser=0
XU1 N004 N002 N006 opamp Aol=100K GBW=10Meg
XU2 N004 N003 Vo opamp Aol=100K GBW=10Meg
V1 Vi 0 AC 1 0 Rser=0
XU3 N001 N005 N001 opamp Aol=100K GBW=10Meg
C3 N005 Vi 1 Rser=0
R6 N005 0 1
R7 N003 N001 18
R8 N002 0 1.125
C4 N003 0 0.8888
.lib opamp.sub
.ac dec 1000 0.001 10
* Pasa-Altos con cero de transmision - Schaumann
* Trabajo Semanal 6 - Juan Ronchetti
.backanno
.end
