* D:\UTN D\04 - Teoria de Circuitos 2\TC2_JuanRonchetti_2023\TS_7\Circuito1.asc
R1 N001 0 1
L1 0 N001 1
L2 V2 0 1
R3 V2 0 3
R2 V2 N001 2
V1 N001 0 AC 1 0
K L1 L2 1
* :
.net I(R3) V1
.ac dec 1000 0.01 100
.backanno
.end
