* D:\UTN D\Teoria de Circuitos 2\TC2_JuanRonchetti_2023\TS_2\CircuitoSpicePasabanda.asc
XU1 N001 0 Vo opamp Aol=100K GBW=10Meg
XU2 0 N005 N002 opamp Aol=100K GBW=10Meg
XU3 0 N004 N003 opamp Aol=100K GBW=10Meg
R1 N001 N006 {R1}
R2 Vo N001 {R2}
R3 N005 Vo {R3}
R4 N002 N004 {R4}
R5 N004 N003 {R4}
R6 N002 N001 {R3}
C1 Vo N001 {C}
C2 N003 N005 {C}
Vin N006 0 SINE() AC 1 0
.param R1 1k
.param R2 30k
.param R3 10k
.param C 100u
.param R4 10k
.ac dec 100 0.001 10
.lib opamp.sub
.backanno
.end
